US04582833
A mixture of 10.0 g (0.05 moles) of methyl 5-methyl-2-phenyl-4-imidazolyl ketone [A. C. Verones, et al., J. Het. Chem., 17, 1723 (1980)] and 45.0 ml of N,N-dimethylformamide dimethyl acetal was refluxed for 16 hours in an oil bath. The reaction mixture was cooled at -10° C., then filtered. The product was washed with 50 ml of cold ethanol, air dried and gave 4.6 g of 3-(dimethylamino)-1-(5-methyl-2-phenyl-1H-imidazol-4-yl)-2-propen-1-one as a yellow solid, mp 218°-222° C.

reactant | methyl 5-methyl-2-phenyl-4-imidazolyl ketone | 0.05 moles, 10.0 g | CC1=C(N=C(N1)C1=CC=CC=C1)C(=O)C | C12H12N2O
reactant | N,N-dimethylformamide dimethyl acetal | 45.0 ml | COC(N(C)C)OC | C5H13NO2
product | 3-(dimethylamino)-1-(5-methyl-2-phenyl-1H-imidazol-4-yl)-2-propen-1-one | 4.6 g | CN(C=CC(=O)C=1N=C(NC1C)C1=CC=CC=C1)C | C15H17N3O
